US05563303
One mole of sodium arabinonate (188 g) in 300 ml of water was acidified on an acid cation exchange resin, giving a solution of arabinonic acid. The arabinonic acid was transformed into the γ-lactone by concentrating in vacuum the aqueous solution to about 200 ml when 300 ml of butanol is added. After a third concentration, the solution is removed from the flask with the aid of 100 ml of butanol and seeded. Crystallization begins at once and a large crop of crystals forms. The crystalline product (115 g) is collected on a filter, washed with butanol and dried.

reactant | sodium arabinonate | One mole, 188 g | O=C([C@@H](O)[C@H](O)[C@H](O)CO)[O-].[Na+]
solvent | water | 300 ml | O | H2O
product | arabinonic acid | O=C([C@@H](O)[C@H](O)[C@H](O)CO)O | C5H10O6
